US05834494
4-Chloro-5-methylthioindoline (D49)
4-Chloro-5-methylthioindole (D47) (0.89 g, 4.49mmol) was treated with sodium cyanoborohydride according to the procedure of Description 10 to afford the title compound (0.90 g, 100%) as a pale yellow oil.

reactant | 4-Chloro-5-methylthioindole | 4.49mmol, 0.89 g | ClC1=C2C=CNC2=CC=C1SC | C9H8ClNS
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 4-Chloro-5-methylthioindoline | 0.90 g, 100% | ClC1=C2CCNC2=CC=C1SC | C9H10ClNS
